US06498254B1
Preparation of 2-[[(2-nitro-5-methylphenyl)methyl]sulfonyl]pyridine-N-oxide
Five grams [5.0 g (0.02 mole)] of 2-[[(5-Methyl-2-nitrophenyl) methyl]sulfinyl]pyridine-N-oxide, was slurried in 30 ml of glacial acetic acid. The slurry was stirred while 3.6 g of 40% peracetic acid (1.11 mole) was added dropwise. After addition, the mixture was heated to 60° C. for 4 hours, allowed to cool and stirred at room temperature overnight. Excess peracetic acid was destroyed using NaHSO3. The mixture was neutralized with K2CO3 solution, and the solid was filtered and washed with water. After drying, the solid melted at 178-183° C. and had an NMR consistent with the proposed structure.

reactant | 2-[[(5-Methyl-2-nitrophenyl) methyl]sulfinyl]pyridine-N-oxide | 0.02 mole, Five grams | CC=1C=CC(=C(C1)CS(=O)C1=[N+](C=CC=C1)[O-])[N+](=O)[O-] | C13H12N2O4S
reactant | peracetic acid | 1.11 mole, 3.6 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-[[(2-nitro-5-methylphenyl)methyl]sulfonyl]pyridine-N-oxide | [N+](=O)([O-])C1=C(C=C(C=C1)C)CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C13H12N2O5S
